US09340549B2
A microwave vial was charged with (4S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)oxazolidin-2-one (0.124 g, 0.312 mmol), 3-bromo-1,7-naphthyridin-2(1H)-one (0.105 g, 0.468 mmol), sodium carbonate (0.099 g, 0.936 mmol), dioxane (3.0 mL), and water (0.600 mL). Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) (DCM adduct) (0.026 g, 0.031 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture was irradiated at 100° C. in the microwave for 1.5 hours. The reaction mixture was then filtered through Celite® brand filter aid and the filtrate was concentrated to afford a brown oil. The oil thus obtained was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-10% MeOH-EtOAc) to afford Example 87 ((4S)-5,5-dimethyl-3-(4-(2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)cyclohex-3-en-1-yl)-4-phenyloxazolidin-2-one) (50 mg, 39%) as an off-white solid as a mixture of diastereomers. m/z (ESI) 416.4 (M+H)+.

reactant | (4S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)oxazolidin-2-one | 0.312 mmol, 0.124 g | CC1([C@@H](N(C(O1)=O)C1CC=C(CC1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C23H32BNO4
reactant | 3-bromo-1,7-naphthyridin-2(1H)-one | 0.468 mmol, 0.105 g | BrC=1C(NC2=CN=CC=C2C1)=O | C8H5BrN2O
reactant | sodium carbonate | 0.936 mmol, 0.099 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.031 mmol, 0.026 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.600 mL | O | H2O
product | (4S)-5,5-dimethyl-3-(4-(2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)cyclohex-3-en-1-yl)-4-phenyloxazolidin-2-one | CC1([C@@H](N(C(O1)=O)C1CC=C(CC1)C=1C(NC2=CN=CC=C2C1)=O)C1=CC=CC=C1)C | C25H25N3O3
